US07173004B2
Prepared from 14-tert-butoxycarbonylamino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]-nonadec-7-ene-4-carboxylic acid (50 mg, 0.075 mmol) and 1-propyl-cyclopropanesulfonic acid amide (16 mg, 0.098 mmol, prepared as described above) to give [18-(isoquinolin-1-yloxy)-2,15-dioxo-4-(1-propyl-cyclopropanesulfonylaminocarbonyl)-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid tert-butyl ester as a white powder: 1H NMR (300 MHz, CD3Cl3) δ 0.82–0.93 (m, 5H), 1.23 (s, 9H), 1.30–1.94 (m, 17H), 2.28 (m, 1H), 2.54(m, 1H), 2.68 (dd, J=8.1 Hz, 3.2 Hz, 2H), 4.05 (m, 1H), 4.30 (m, 1H), 4.63–4.66 (m, 2H), 4.96–5.09 (m, 2H), 5.70 (m, 1H), 5.92 (s, 1H), 6.69 (s, 1H), 7.23 (m, 1H), 7.46 (t, J=8.1 Hz, 1H), 7.63 (t, J=8.1 Hz, 1H), 7.72 (d, J=8.1 Hz, 1H), 7.97(d, J=5.9 Hz, 1H), 8.17 (d, J=8.4 Hz, 1H), 10.12 (s, 1H). LC-MS (Method A, retention time: 3.77 min), MS m/z 738 (M++1).

reactant | 14-tert-butoxycarbonylamino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]-nonadec-7-ene-4-carboxylic acid | 0.075 mmol, 50 mg | C(C)(C)(C)OC(=O)NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)OC1=NC=CC2=CC=CC=C12)=O)C(=O)O | C32H40N4O7
reactant | 1-propyl-cyclopropanesulfonic acid amide | 0.098 mmol, 16 mg | C(CC)C1(CC1)S(=O)(=O)N | C6H13NO2S
product | [18-(isoquinolin-1-yloxy)-2,15-dioxo-4-(1-propyl-cyclopropanesulfonylaminocarbonyl)-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)OC1=NC=CC2=CC=CC=C12)=O)C(=O)NS(=O)(=O)C1(CC1)CCC)=O | C38H51N5O8S
